US07223791B2
A mixture of ethyl 4-[5-(4-trifluoromethylphenyl)-2-thienyl]benzoate (0.941 g), 1 M aqueous sodium hydroxide solution (7.5 ml), tetrahydrofuran (25 ml) and ethanol (25 ml) as stirred at 60° C. for 1 hr. After cooling, the reaction mixture was poured into water, and 1 M hydrochloric acid (25 ml) was added. The crystals were collected by filtration and recrystallized from ethanol to give 4-[5-(4-trifluoromethylphenyl)-2-thienyl]benzoic acid (0.583 g, yield 67%) as a yellow crystalline powder. melting point: 284–285° C.

reactant | ethyl 4-[5-(4-trifluoromethylphenyl)-2-thienyl]benzoate | 0.941 g | FC(C1=CC=C(C=C1)C1=CC=C(S1)C1=CC=C(C(=O)OCC)C=C1)(F)F | C20H15F3O2S
reactant | sodium hydroxide | 1 M, 7.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M, 25 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-[5-(4-trifluoromethylphenyl)-2-thienyl]benzoic acid | 0.583 g, yield 67% | FC(C1=CC=C(C=C1)C1=CC=C(S1)C1=CC=C(C(=O)O)C=C1)(F)F | C18H11F3O2S
